### ISSUE TITLE
Crash in 4.21.0-rc3 involving Aesop + omega

### ISSUE THREAD

**Issue by BrunoDutertre** [leanprover-community/aesop#230]
See https://github.com/leanprover/lean4/issues/8728

The following input causes a failure in 4.21.0-rc3. It used to work in previous versions.

```lean
import Aesop

add_aesop_rules safe (by omega)

inductive Formula (α: Type): Type where
  | Not: Formula α → Formula α
  | Atom: α → Formula α

structure Struct (α: Type) where
  var_to_formula: Array (Formula α)
  formula_to_var: List (Formula α)

theorem test (c: Struct α) (f: Formula α)
  (i₃: ∀ i, i ≥ 1 → (h: i < c.var_to_formula.size) → c.var_to_formula[i] ∈ c.formula_to_var):
  (∀ i, i ≥ 1 → (h: i < c.var_to_formula.size + 1) →
    f = (c.var_to_formula.push f)[i]'(by simp [h]) ∨
    (c.var_to_formula.push f)[i]'(by simp [h]) ∈ c.formula_to_var) := by
        aesop (add norm Array.getElem_push)
```
Here are the error messages
```
error: Bugs/Panic2.lean:3:25: (kernel) application type mismatch
  @getElem (Array (Formula α)) Nat (Formula α) (fun xs i => i < xs.size) Array.instGetElemNatLtSize
    (Struct.var_to_formula α c) i a✝
argument has type
  ¬((∀ (h : i < Array.size (Struct.var_to_formula α c)),
        f =
          @getElem (Array (Formula α)) Nat (Formula α) (fun xs i => i < xs.size) Array.instGetElemNatLtSize
            (Struct.var_to_formula α c) i h) ∨
      f ∈ Struct.formula_to_var α c)
but function has type
  (fun xs i => i < xs.size) (Struct.var_to_formula α c) i → Formula α
error: Bugs/Panic2.lean:15:8: (kernel) unknown constant 'push_cases._proof_1_1'
```

**Comment by JLimperg** [comment]
This appears to be an `omega` issue:

```lean
example
    (α : Type)
    (c : Struct α)
    (f : Formula α)
    (i : Nat)
    (h : i < c.var_to_formula.size + 1)
    (i₃ : ∀ (i : Nat), 1 ≤ i → ∀ (h : i < c.var_to_formula.size), c.var_to_formula[i] ∈ c.formula_to_var)
    (a : 1 ≤ i)
    (h_1 : c.var_to_formula.size ≤ i) : (∀ (h : i < c.var_to_formula.size), f = c.var_to_formula[i]) ∨ f ∈ c.formula_to_var := by
  omega -- (kernel) application type mismatch ...
```

I'll cross-post to https://github.com/leanprover/lean4/issues/8728.
